US06921763B2
A suspension of N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-1-methyl-1H-2-indolecarboxamide (0.250 g, 0.518 mmol) in dimethylformamide (5 mL) was treated with 2-bromoethyl methyl ether (0.079 g, 0.569 mmol) and potassium carbonate (0.143 g, 1.04 mmol). The reaction mixture was stirred at 65° C. for 18 h under a nitrogen atmosphere. Water (25 mL) was added to the reaction mixture. The precipitate formed was filtered and dried on the lyophilizer. The crude material was purified by flash chromatography on silica gel using 10% methanol in dichloromethane (15 min), 15% methanol in dichloromethane (15 min), 20% methanol in dichloromethane (20 min) and 50% methanol in dichloromethane (5 min) as the eluent. The column afforded 0.082 g (29%) of pure N2-(4-{4-amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide. 1H NMR (DMSO-d6, 400 MHz) δ 9.447 (s, 1H), 8.265 (s, 1H), 8.1278-8.1075 (d, 1H, J=8.12 Hz), 7.7192-7.6993 (d, 1H, J=7.96 Hz), 7.5996-7.5799 (d, 1H, J=7.88 Hz), 7.349-7.295 (m, 4H), 7.172-7.133 (m, 1H), 5.42 (m, 1H), 4.042 (s, 3H), 3.96 (s, 3H), 3.479 (m, 2H), 3.266-3.258 (m, 3H), 2.95-2.60 (m, 4H), 2.332 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 2.34 min (100%), MH+ 541.3.

reactant | N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-1-methyl-1H-2-indolecarboxamide | 0.518 mmol, 0.250 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CNCC2 | C26H26N8O2
reactant | 2-bromoethyl methyl ether | 0.569 mmol, 0.079 g | COCCBr | C3H7BrO
reactant | potassium carbonate | 1.04 mmol, 0.143 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 25 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N2-(4-{4-amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide | 0.082 g, 29% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CN(CC2)CCOC | C29H32N8O3
